US09260418B2
To a dry 25 mL round bottom flask containing tert-butyl rac-(3R,4R)-4-(6-bromo-4-oxobenzo[h]quinazolin-3(4H)-yl)-3-hydroxypiperidine-1-carboxylate (0.163 g, 0.344 mmol) under N2(g) was added (2-chloro-5-pyridyl)methylzinc chloride (0.5 M in THF, 2.06 mL, 1.03 mmol) and tetrakis (triphenylphosphine)palladium (0) (10 mol %). The reaction was heated to reflux at 90° C. for 20 h, cooled to room temperature, and diluted with dichloromethane. Hexanes were added to the solution and the resultant beige precipitate was collected via filtration, washed with dichloromethane and hexanes, and dried on high vac to provide crude tert-butyl rac-(3R,4R)-4-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]-3-hydroxypiperidine-1-carboxylate that gave a mass ion (ES+) of 520.9 for M+H+.

reactant | tert-butyl rac-(3R,4R)-4-(6-bromo-4-oxobenzo[h]quinazolin-3(4H)-yl)-3-hydroxypiperidine-1-carboxylate | 0.344 mmol, 0.163 g | BrC=1C=C2C(N(C=NC2=C2C1C=CC=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)=O | C22H24BrN3O4
reactant | (2-chloro-5-pyridyl)methylzinc chloride | 1.03 mmol, 0.5 M, 2.06 mL | [Cl-].ClC1=NC=C(C=C1)C[Zn+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl rac-(3R,4R)-4-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]-3-hydroxypiperidine-1-carboxylate | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)=O | C28H29ClN4O4
